US07504404B2
Step 1) 5-(4-Trifluoromethyl-phenyl)-pyridin-2-ylamine
Prepared as described in example C.32 (step 4) from commercially available 2-amino-5-bromo-pyridine (3.46 g, 20.0 mmol) and commercially available 4-trifluoromethyl-phenylboronic acid (4.18 g, 22.0 mmol). Obtained as an off-white solid (3.36 g, 71%). Mp 130° C.

reactant | 2-amino-5-bromo-pyridine | 20.0 mmol, 3.46 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 4-trifluoromethyl-phenylboronic acid | 22.0 mmol, 4.18 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 5-(4-Trifluoromethyl-phenyl)-pyridin-2-ylamine | 3.36 g, 71% | FC(C1=CC=C(C=C1)C=1C=CC(=NC1)N)(F)F | C12H9F3N2
